US05990114
Step b: N-Formylmethyl-N-(2-pyridyl)cyclohexanecarboxamide
A mixture of 1.46 g of N-[(2,2-dimethoxy)ethyl]-N-(2-pyridyl)cyclohexanecarboxamide, 0.05 g of 1,4-hydroquinone, and 25 ml of 2N HCl was stirred at 80° C. for 20 min under nitrogen stream. Afterwards, it was cooled at 0° C., diluted with 50 ml of methylene chloride, and alkalinized to pH=10 with 20% aqueous Na2CO3. The aqueous layer was extracted twice with methylene chloride and the combined organic layers were dried (sodium sulfate) and evaporated to dryness in vacuo affording 0.94 g of the title compound, used without further purification in the next reaction step.

reactant | N-[(2,2-dimethoxy)ethyl]-N-(2-pyridyl)cyclohexanecarboxamide | 1.46 g | COC(CN(C(=O)C1CCCCC1)C1=NC=CC=C1)OC | C16H24N2O3
reactant | HCl | 2N, 25 ml | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-Formylmethyl-N-(2-pyridyl)cyclohexanecarboxamide | 0.94 g | C(=O)CN(C(=O)C1CCCCC1)C1=NC=CC=C1 | C14H18N2O2
